US04310459
(6R,7R) 3-Methyl-7-phenoxyacetamidoceph-3-em-4-carboxylic Acid Diphenylmethyl Ester
(1S,3S,5R,6R) 2,2-Dimethyl-6-phenoxyacetamidopenam-3-carboxylic acid-1-oxide diphenylmethyl ester (55.06 gms, 100.00 mmoles) was dissolved in sieve-dried, peroxide-free dioxane (550 mls) at 25° C. with good agitation. To this solution, in order, were added pyridine (24.21 mls, 23.73 gms, 300.00 mmmoles), acetyl bromide (1.48 mls, 2.46 gms, 20.00 mmoles) and methylsilyl triisocyanate (89% pure, 21.30 mls, 25.34 gms, 133.33 mmoles). The slurry was heated to reflux (ca 100° C.) for 4 hours. The reaction mixture was then cooled to 25° C. and filtered, with the clear yellow filtrate being concentrated in vacuo at 50° C. to a highly viscous oil. The oil was dissolved in hot 2-propanol (~80° C., 3000 mls), filtered, and allowed to cool to 25° C. The slurry was cooled to 0°-5° C. for 2 hours, filtered, and washed with 2-propanol (0°-5° C., 400 mls), and oven-dried at 45° C. to constant weight. Yield: 38.6 gms, 75% of white crystalline title compound. The 80 MHz H' NMR spectrum was clean and consistent for the desired structure.

reactant | (1S,3S,5R,6R) 2,2-Dimethyl-6-phenoxyacetamidopenam-3-carboxylic acid-1-oxide diphenylmethyl ester | 100.00 mmoles, 55.06 gms | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)[C@H]1C([S@@]([C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)=O)(C)C | C29H28N2O6S
reactant | acetyl bromide | 20.00 mmoles, 1.48 mls, 2.46 gms | C(C)(=O)Br | C2H3BrO
solvent | pyridine | 24.21 mls, 23.73 gms | N1=CC=CC=C1 | C5H5N
product | (6R,7R) 3-Methyl-7-phenoxyacetamidoceph-3-em-4-carboxylic Acid Diphenylmethyl Ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)C | C29H26N2O5S
